US07465815B2
3-(4-(1,3-Dioxolan-2-yl)phenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine
Using N-benzyl-3-(4-(1,3-dioxolan-2-yl)phenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 284, the title compound was synthesized in the same manner as in Reference Example 30. Yield 87%. Melting point: 125-136° C. (hexane).

reactant | N-benzyl-3-(4-(1,3-dioxolan-2-yl)phenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine | C(C1=CC=CC=C1)NC=1C(=C(C2=C(C(CO2)C2=CC=C(C=C2)C2OCCO2)C1C)C)C | C27H29NO3
solvent | hexane | CCCCCC | C6H14
product | 3-(4-(1,3-Dioxolan-2-yl)phenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine | Yield 87% | O1C(OCC1)C1=CC=C(C=C1)C1COC2=C1C(=C(C(=C2C)C)N)C | C20H23NO3
